US07619092B2
In 3.0 ml of dichloromethane was dissolved 831 ml of triphosgene, and added dropwise thereto were a solution of 1.08 g of N-(3,5-bistrifluoromethylbenzyl)-N-methylamine and 1.76 ml of triethylamine in 5.0 ml of dichloromethane, spending 10 minutes, under nitrogen atmosphere under ice-cooling. The reaction mixture was stirred at 0° C. to 5° C. for 30 minutes. The solvent was removed by distillation, and the residue was dried. To the residue were added water and dichloromethane and the mixture was extracted twice with dichloromethane. The organic layers were combined and washed with saturated brine, and dried. Then, the solvent was removed by distillation. The residue was purified by silica gel column chromatography (hexane→hexane:ethyl acetate=10:1), to give 760 mg of N-(3,5-bistrifluoromethylbenzyl)-N-methylaminocarbonyl chloride as shown in Table 134 below.

reactant | N-(3,5-bistrifluoromethylbenzyl)-N-methylamine | 1.08 g | FC(C=1C=C(CNC)C=C(C1)C(F)(F)F)(F)F | C10H9F6N
reactant | triethylamine | 1.76 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 831 ml | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 3.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | N-(3,5-bistrifluoromethylbenzyl)-N-methylaminocarbonyl chloride | 760 mg | FC(C=1C=C(CN(C(=O)Cl)C)C=C(C1)C(F)(F)F)(F)F | C11H8ClF6NO
